US09193720B2
A mixture of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-methoxyphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.032 g, 0.053 mmol) and 1M NaOH (0.159 ml, 0.159 mmol) in EtOH (2 mL) was refluxed for 4 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-methoxyphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid (0.0257 g, 0.045 mmol, 84% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.27-7.23 (m, 2H), 7.14 (dd, J=8.5, 2.0 Hz, 1H), 7.09-7.04 (m, 1H), 7.01-6.96 (m, 2H), 6.93-6.88 (m, 2H), 6.00 (br. s., 1H), 4.26-4.17 (m, 2H), 3.83 (s, 3H), 3.57 (br. s., 1H), 3.10 (t, J=7.1 Hz, 2H), 2.93 (br. s., 1H), 2.64 (s, 3H), 2.34 (br. s., 1H), 2.21 (s, 3H), 2.16-2.01 (m, 1H), 1.68-1.47 (m, 2H), 1.40-1.28 (m, 2H), 1.25 (s, 9H), 0.88 (br.s., 3H), 0.68 (br. s., 3H). LCMS (M+H)=575.4.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-methoxyphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.053 mmol, 0.032 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)OC)C)C | C37H50N2O5
reactant | NaOH | 0.159 mmol, 1M, 0.159 ml | [OH-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-methoxyphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 0.045 mmol, 0.0257 g, 84% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)OC)C)C | C35H46N2O5
